US07259183B2
Preparation of 5-Chloro-6-fluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-chloro-4-fluoro-phenyl)-ethyl]-amide
To a solution of 100 mg (0.47 mmol) 5-chloro-6-fluoro-1H-indole-7-carboxylic acid and 150 mg of TBTU (0.47 mmol) in 7 ml DMF, were added 0.4 ml (2.34 mmol) of N,N-diisopropylethyl amine. After stirring for 5 min at rt, 150 mg (0.47 mmol) (4-tert-butyl-benzyl)-[2-(3-chloro-4-fluoro-phenyl)-ethyl]-amine in 1 ml DMF was added. After stirring for 17 h at rt, the reaction mixture was diluted with 80 ml water and extracted with EtOAc (2×). The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (8 g silica gel; diethylether/heptane 1:1; then 8 g silicagel DCM/heptane 70:30 to 90:10) to give 130 mg light yellow foam (52%). MS (EI) 514.1 (M)+.

reactant | 5-chloro-6-fluoro-1H-indole-7-carboxylic acid | 0.47 mmol, 100 mg | ClC=1C=C2C=CNC2=C(C1F)C(=O)O | C9H5ClFNO2
reactant | TBTU | 0.47 mmol, 150 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 2.34 mmol, 0.4 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4-tert-butyl-benzyl)-[2-(3-chloro-4-fluoro-phenyl)-ethyl]-amine | 0.47 mmol, 150 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=C(C=C2)F)Cl)C=C1 | C19H23ClFN
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 80 ml | O | H2O
product | 5-Chloro-6-fluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-chloro-4-fluoro-phenyl)-ethyl]-amide | 52% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C(=C(C=C3C=CNC23)Cl)F)CCC2=CC(=C(C=C2)F)Cl)C=C1 | C28H26Cl2F2N2O
